2122-11-15 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -spoke with son- would tolerate [**Name (NI) 4273**] (patient feels dyspneic)
   -gave IV morphine, 10mg IV Lasix around 545
   -at 615 patient "feel like im going to die" and asked to speak with
   son.  he was called for her
   -put out 350cc to 10mg IV Lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   500 mL NS 2. Acetaminophen 3. Ciprofloxacin 4. Ciprofloxacin 5.
   DOPamine 6. Dextrose 50% 7. Enoxaparin Sodium
   8. Furosemide 9. Levothyroxine Sodium 10. Morphine Sulfate 11. Morphine
   Sulfate 12. Piperacillin-Tazobactam
   13. Piperacillin-Tazobactam 14. Pneumococcal Vac Polyvalent 15.
   Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient not responding to questions
   Flowsheet Data as of  [**2122-11-15**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 71 (49 - 100) bpm
   BP: 94/25(43) {87/25(43) - 111/39(54)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             3,406 mL
   PO:
             TF:
   IVF:
   906 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    165 mL
   Urine:
   165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,241 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   NAD, appears comfortable, nonresponsive
   CV: irregularly irregular, NL s1/s2 no murmurs
   Pulm: crackles b/l from ant
   Ab: +BS, soft NTND
   Ext: b/l l/e pitting edema, unchanged
   Labs / Radiology
        T3 98, FT4 1.1, corisol 19.1
   Microbiology: [**11-14**] stool culture/cdiff pending
   [**11-14**] urine culture pending
   [**11-14**] blood culture pending
   Assessment and Plan
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia.
   #.  Hypothermia: Could be secondary to infection as by labs does not
   appear to be adrenal insufficiency or hypothyroidism.  Patient recently
   on vanc/zosyn so concern for multi-drug resistant organisms.
   Concerning for sepsis given UTI and low SBPs at admission.  Per notes,
   patient was hospitalized at NWH from [**Date range (1) 9983**] and was treated with
   Vanc/Zosyn for sepsis.
   -infectious w/u with cultures: blood, urine
   -f/u stool cultures
   -cont  Vanc/Zosyn/Cipro since patient may have resistance to Vanc/Zosyn
   -surveillance blood cultures
   #.  Hypoglycemia: unclear etiology.  There is a diagnosis of DM in
   chart, however not on any glycemic control meds.
   -Q2H finger sticks
   #.  Hypotension: possibly due to sepsis.
   -infectious w/u as above.
   -prn boluses gently given DNI status
   -continue dopamine now for goal SBP >110
   -after discussion with son, HCP, this am, it is clear that aggressive
   intervention warranted and desired.  CVL and aline to be placed now.
   #.  hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   #.  MS
   [**Name13 (STitle) 4934**] baclofen 10mg TID while can't take PO because of somnolence
   #.  HTN: holding home antihyptertensives in setting of hypotension
   ICU Care
   FEN:  NPO given somnolence, prn boluses
   PPX:
   -DVT ppx with Lovenox 40 daily
   -Bowel regimen  prn
   -Pain management with tylenol pr and morphine prn
   ACCESS: PIV's
   CODE STATUS: DNR/DNI; per HCP would want to take each intervention in
   context as far as prognosis and potential benefit.  For example, states
   his mother would accept central lines/arterial lines for management.
   EMERGENCY CONTACT:  [**Name (NI) **] [**Name (NI) 9977**] (son) cell [**Telephone/Fax (1) 9978**]; home [**Telephone/Fax (1) 9979**].  Planning to come in in mid-morning [**11-15**] and will have to
   get ICU consent at that time.
   DISPOSITION:  ICU level of care

2122-11-16 07:15:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - Placed left IJ line, A-line, changed her to Levophed
   - Given 1L NS x 4 for low CVP (<4) and low UOP, finally got CVP to 7,
   then SvO2 sent which was 79%
   - Consider CT scan to look for pyelo
   - Ordered TTE for tomorrow
   - Felt SOB at 6pm with some tachypnea to low 20's, ABG showed
   7.41/41/138.  Felt somewhat related to anxiety as started during a lab
   draw.   Gave 0.5mg IV Ativan and felt that heating blanket may have
   been contributing.  Settled her down quickly and she fell asleep and
   stopped complaining of dyspnea.
 ARTERIAL LINE - START [**2122-11-15**] 11:27 AM
 MULTI LUMEN - START [**2122-11-15**] 11:28 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-11-15**] 08:10 PM
   Meropenem - [**2122-11-16**] 12:00 AM
   Vancomycin - [**2122-11-16**] 12:45 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2122-11-15**] 06:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-16**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 86 (60 - 116) bpm
   BP: 115/59(82) {90/37(58) - 120/65(90)} mmHg
   RR: 31 (13 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (0 - 8)mmHg
   Mixed Venous O2% Sat: 79 - 79
                                Total In:
                                                                  8,309 mL
                                                                    405 mL
   PO:
                                TF:
   IVF:
                                                                  5,809 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,412 mL
                                                                    192 mL
   Urine:
                                                                  1,412 mL
                                                                    192 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,897 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91% 4L
   ABG: 7.37/41/138/23/-1
   Physical Examination
   General: NAD, appears comfortable, responds appropriately to questions
   CV: irregularly irregular, systolic murmur over left sternal border
   Pulm: crackles bilaterally anteriorly
   Ab: +BS, soft NTND
   Ext: b/l l/e pitting edema, unchanged
   Labs / Radiology
   184 K/uL
   8.6 g/dL
   141 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   7 mg/dL
   111 mEq/L
   140 mEq/L
   27.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
   WBC
   5.4
   5.2
   Hct
   28.7
   27.2
   Plt
   208
   184
   Cr
   0.3
   0.3
   0.5
   TCO2
   25
   Glucose
   130
   141
   Other labs: PT / PTT / INR:11.8/33.0/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, LDH:119 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   HEMOGLOBLIN FRACTIONS ( COOXIMETRY)
                                   O2 Sat
   [1][**2122-11-16**] 02:18AM
                                     79
   Miscellaneous
   C-PEPTIDE
   INSULIN
   [2][**2122-11-14**] 11:10PM
   PND
   [3][**2122-11-14**] 11:10PM
   PND
   [4][**2122-11-15**] 05:25PM
                                     ART
                                    35.4
   4
                                    138*
                                     41
                                    7.37
                                     25
                                     -1
                                NOT INTUBA[1]
                                NASAL [**Last Name (un) 4001**][2]
   Blood culture [**11-14**] pending
   Urine culture [**11-14**] pending
[**2122-11-14**] 11:49 pm STOOL     CONSISTENCY: SOFT
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2122-11-15**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
   CXR today in OMR
   Assessment and Plan
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia, hypoxia.
   #.  Hypotension: Most likely due to septic shock given evidence for
   urosepsis and persistently low blood pressures.  Currently still
   requiring BP support with norepinephrine.  Had SvO2 of 79% which
   suggests against cardiogenic shock as a cause.  Feel that she is still
   intravascularly volume depleted and total body fluid overloaded.
   - Give another 500cc NS now for blood pressure support
   - Continue sepsis treatment with Vanc/Meropenem/Cipro, today is day 2,
   course pending culture data
   - Prn boluses gently given DNI status for low UOP, CVP
   - Will attempt to wean norepinephrine today as tolerated
   -FU blood, urine cultures
   - FU Stool cultures
   - Surveillance blood cultures, will order for today
   - Will get CT scan to look for source of infection in urinary tract,
   will need contrast.  Can look at CT chest as well to better
   characterize causes of hypoxia.
   - Check vanc trough this am
   #.  Hypothermia: Could be secondary to infection as by labs does not
   appear to be adrenal insufficiency or hypothyroidism.   Feel that most
   likely is urosepsis-related given recent UTI and low SBPs at
   admission.  Per notes, patient was hospitalized at NWH from [**Date range (1) 9983**]
   and was treated with Vanc/Zosyn for sepsis.
   - continue warming blanket as needed
   #. Shortness of breath: Patient with some shortness of breath
   associated with being turned/moved or procedures.  Feel likely an
   anxiety component as O2 sat always within normal limits and improved
   with 0.5mg IV Ativan last night.  ABG reassuring.
   - Ativan VERY conservatively for subjective shortness of breath
   #.  Hypoglycemia: There is a diagnosis of DM in chart, however not on
   any glycemic control meds.  Fingersticks have been 129-164 now and
   admission hypoglycemia of unclear etiology.  [**Month (only) 11**] have been drug-related
   vs sepsis-related on admission.
   - Check QID fingersticks
   - FU Insulin and C-peptide levels
   #.  Hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   #.  MS: Hold baclofen 10mg TID while can't take PO because of
   somnolence
   #.  HTN: holding home antihyptertensives in setting of hypotension
   #.  Goals of care: Could consider palliative care consult given the
   patient
s wish to remain out of the hospital and to leave the hospital
   for [**Holiday 3326**].
   - Will discuss with family
   ICU Care
   Nutrition: Will advance diet to soft diet, prn boluses.  Will check
   albumin today.
   Glycemic Control:  None needed
   Lines: 20 Gauge - [**2122-11-15**] 02:30 AM
   Arterial Line - [**2122-11-15**] 11:27 AM
   Multi Lumen - [**2122-11-15**] 11:28 AM
   Prophylaxis:
   DVT: DVT ppx with Lovenox 40 daily
   Stress ulcer:
   VAP:
   Comments: Bowel regimen prn, Pain management with tylenol pr and
   morphine prn
   Communication:  Comments: [**Name (NI) **] [**Name (NI) 9977**] (son) cell [**Telephone/Fax (1) 9978**]; home
   [**Telephone/Fax (1) 9989**].
   Code status: DNR/DNI; per HCP would want to take each intervention in
   context as far as prognosis and potential benefit.  For example, states
   his mother would accept central lines/arterial lines for management.
   Disposition: ICU level of care
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);

2122-11-16 09:37:00 Physician Attending Progress Note
Chief Complaint: shock, hypoglycemia, AMS, hypothermia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  88 F h/o papillary thyroid ca, MS, CAD, T2DM and hypothyroidism
   admitted from her [**Hospital3 59**] facility with hypothermia,
   hypotension, hypoglycemia.  She was recently treated for UTI with
   vancomycin and zosyn at an OSH after presenting with hypothermia and
   change in mental status; cultures from that admission never became
   positive.
   24 Hour Events:
 ARTERIAL LINE - START [**2122-11-15**] 11:27 AM
 MULTI LUMEN - START [**2122-11-15**] 11:28 AM
   remains on levophed
   received 4L NS with CVP
     svo2 79%
   complained of dyspnea--> abg on NC 7.41/41/138, felt improved after 0.5
   ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2122-11-16**] 12:00 AM
   Vancomycin - [**2122-11-16**] 12:45 AM
   Ciprofloxacin - [**2122-11-16**] 07:52 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2122-11-15**] 06:03 PM
   Enoxaparin (Lovenox) - [**2122-11-16**] 07:57 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-16**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 74 (60 - 116) bpm
   BP: 126/53(83) {90/37(58) - 126/65(90)} mmHg
   RR: 28 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69 kg (admission): 66 kg
   CVP: 4 (0 - 8)mmHg
   Mixed Venous O2% Sat: 79 - 79
                               Total In:
                                                                  8,309 mL
                                                                    637 mL
   PO:
                               TF:
   IVF:
                                                                  5,809 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  1,412 mL
                                                                    272 mL
   Urine:
                                                                  1,412 mL
                                                                    272 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,897 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.37/41/138/23/-1
   Physical Examination
   General Appearance: No acute distress, much more alert, conversant
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: palp pedal/distal pulses
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, dependent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   8.6 g/dL
   184 K/uL
   141 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   7 mg/dL
   111 mEq/L
   140 mEq/L
   27.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
   WBC
   5.4
   5.2
   Hct
   28.7
   27.2
   Plt
   208
   184
   Cr
   0.3
   0.3
   0.5
   TCO2
   25
   Glucose
   130
   141
   Other labs: PT / PTT / INR:11.8/33.0/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, LDH:119 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   Imaging: cxr--effusions b/l layering, smaller volumes L IJ in position.
   no focal process
   Microbiology: bl, urine pending
   c diff neg
   Assessment and Plan
   88 F h/o papillary thyroid ca, MS, CAD, T2DM and hypothyroidism
   admitted from her [**Hospital3 59**] facility with hypoglycemia,
   hypotension, and AMS.
   Suspect septic shock likely from urinary source.  Other possible
   sources include intraabdominal, though latter less likely given benign
   exam and difficult to exclude pneumonia given abnormalities on chest
   x-ray, though continues to oxygenate well on minimal NC O2. SVO2 > 70
   and lactate remains normal suggestive of adequate O2 delivery and
   extraction .  Improving but remains on pressor support.
   Ongoing issues include:
   # Shock: likely distributive/septic, suspect from urinary source
   - continue broad empiric antibx vanc/[**Last Name (un) **]/ciprofloxacin pending cx data
   --remains on levophed with low cvp.  Tolerating fluids from resp
   standpoint so will bolus for goal CVP 6-8 weaning
   levophed to maintain MAPs > 60.
   --surveillance blood cxs,
   --ct scan to eval for perinephric abscess or pyelo given recurrent utis
   # Hypothermia: improving, likely due to infection, w/o evidence of
   adrenal insufficiency, thyroid labs do not explain
   - continue to treat sepsis as above
   - Bair hugger as needed
   # Dyspnea
   Sig effusions in setting of fluid resus, but with minimal O2
   requirements to maintain sats and without evidence of hypercarbia to
   suggest fatigue
   --TTE
   --check albumin
   --Monitor resp status with additional fluids
   --follow abg
   --consider NPPV if evidence of hypercarbia or fatigue
   # Hypoglycemia
on admit, remains euglycemic here, raises concern for
   possible medication induced vs sepsis related
   # anemia: will need to obtain OSH records for baseline, no obvious site
   of bleeding, hct stable
   Remainder as per resident note
   ICU Care
   Nutrition: advance diet
   Glycemic Control:  not needed
   Lines:
   Arterial Line - [**2122-11-15**] 11:27 AM
   Multi Lumen - [**2122-11-15**] 11:28 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: continue to update and address goals of care
   with pt and family
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-11-18 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -off of pressors all morning
   -changed to Vanc/[**Last Name (un) 1540**] for planned 14 day course
   -restarted baclofen
   -plan for PICC tomorrow
   -sacral decub looked about the same from admission-wound care to eval
   tomorrow
   -Ts in pm 93-96 so went back on bearhugger
   -consider diuresis in AM pending I/O
   -vanc 21.6 in pm, so did not dose vancomycin
   This AM, patient reports feeling better.  Breathing is comfortable and
   she denies pain.  No fevers or rigors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-11-16**] 12:45 AM
   Ciprofloxacin - [**2122-11-17**] 08:11 AM
   Meropenem - [**2122-11-18**] 12:22 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2122-11-17**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-18**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35
C (95
   HR: 77 (71 - 84) bpm
   BP: 121/58(86) {97/41(63) - 133/68(95)} mmHg
   RR: 35 (18 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 66 kg
    CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  1,570 mL
                                                                    168 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    850 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    802 mL
                                                                    255 mL
   Urine:
                                                                    802 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    768 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 2 L
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Gen: NAD
   CV: RRR, nl s1s2 no murmurs
   Pulm: coarse breath sounds with crackles at bases b/l
   Abd: +BS, soft, NTND
   Ext: increased edema all 4 extremities
   Labs / Radiology
   122 K/uL
   8.8 g/dL
   98 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.9 mEq/L
   9 mg/dL
   114 mEq/L
   140 mEq/L
   28.1 %
   2.8 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   Hct
   28.7
   27.2
   25.8
   28.1
   Plt
   [**Telephone/Fax (3) 10019**]22
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   TCO2
   25
   Glucose
   130
   141
   94
   98
   Other labs: PT / PTT / INR:12.6/35.3/1.1, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Vanco 20.9
   Fluid analysis / Other labs: Urine Cytology pending
   Imaging:
   CXR [**11-16**]:
   As compared to the previous examination, the right-sided pleural
   effusion might have minimally increased. The effusion on the left is
   unchanged. Unchanged appearance of the cardiac silhouette, unchanged
   course
   of the left internal jugular vein access.
   No new imaging
   Microbiology: C Diff neg x 2, Stool Cx neg
   [**11-14**], [**11-16**], [**11-17**] Blood Cx pend
   [**11-14**] Urine Cx pend
   Assessment and Plan
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia, hypoxia.

 HYPOTENSION: Most likely due to septic shock given evidence for
   urosepsis and persistently low blood pressures.  Had SvO2 of 79% which
   suggests against cardiogenic shock as a cause.  Feel that she is still
   intravascularly volume depleted and total body fluid overloaded.
   Patient has now been off pressors for more than 24 hours.  CT torso
   showed hydronephrosis likely secondary to chronic reflux.   Discussed
   with urology and IR and decided intervention would not be indicated
   currently.
   - Continue treatment with Vanc/Meropenem for a total 14 day course for
   complicated UTI, today is day 4 (d/c
d Cipro)
   - plan for PICC line  today
   - FU blood, urine cultures
   - Will dose vanc now and check level in AM
   .
   #  Hypoxemia:  Likely due to pulmonary edema and volume overload.  LOS
   9 L positive.  Although patient
s oxygen requirements have improved,
   she is total body fluid overloaded and would likely benefit from
   diuresis today.
   - can start gently diuresis today; will live lasix 10 mg IV this AM and
   reasses in PM
   .
   #.  Hypothermia: Currently stable.   Could be secondary to infection as
   by labs does not appear to be adrenal insufficiency or
   hypothyroidism.   Feel that most likely is urosepsis-related given
   recent UTI and low SBPs at admission.  Per notes, patient was
   hospitalized at NWH from [**Date range (1) 9983**] and was treated with Vanc/Zosyn for
   sepsis.   Unclear why patient continues to be intermittently
   hypothermic; it is possible that she is unable to mount a fever and
   this is a manifestation of an inflammatory response.  However, patient
   looks clinically much improved.
   - continue warming blanket as needed
   .
   # Leukopenia; WBC count has been declining since admission, but never
   had a left shift or bandemia.  It is possible that low WBC and declinic
   platelets could be a drug reaction, maybe to vancomycin.  Will continue
   to monitor.  Will also attempt to obtain outside labs to get baseline
   WBC count.
   .
   # ARF: Creatinine rising, likely secondary to contrast administration,
   with possible component of ATN from hypotension when first admitted.
   - PM lytes
   - continue to monitor, renally dose medications
   .
   # Arrhythmia seen on telemetry this AM; looks like accelerated
   idioventricular rhythm.  This is transient and has not compromised
   hemodynamic stability.
   - will obtain cardiology input on ECG
   - will contact outpatient cardiologist; per family, she sees
   cardiologist at [**Hospital1 966**]
   .
   #. Shortness of breath: Now improved.  Patient had some shortness of
   breath associated with being turned/moved or procedures.  Feel likely
   an anxiety component as O2 sat always within normal limits and improved
   with 0.5mg IV Ativan last night.  ABG reassuring.
   - Ativan VERY conservatively for subjective shortness of breath
   .
   #.  Hypoglycemia:  None since admission.  There is a diagnosis of DM in
   chart, however not on any glycemic control meds.  Fingersticks have
   been 129-164 now and admission hypoglycemia of unclear etiology.  [**Month (only) 11**]
   have been drug-related vs sepsis-related on admission.
   .
   #.  Hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   .
   #.  MS: restart baclofen 10mg TID
   .
   #.  HTN: holding home antihyptertensives in setting of hypotension
   .
   #.  Goals of care: Could consider palliative care consult given the
   patient
s wish to remain out of the hospital and to leave the hospital
   for [**Holiday 3326**].
   - Will discuss with family
   ICU Care
   Nutrition: Regular soft diet
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2122-11-15**] 11:27 AM
   Multi Lumen - [**2122-11-15**] 11:28 AM ; will D/C after Picc line placed
   22 Gauge - [**2122-11-16**] 01:23 PM ; plan to D/C today
   Prophylaxis:
   DVT: lovenox 40 sc daily
   Stress ulcer: None
   VAP:
   Comments: senna and colace for bowel regimen, Tylenol for pain control
   Communication:  Comments: Comments: [**Name (NI) **] [**Name (NI) 9977**] (son) cell [**Telephone/Fax (1) 10020**]; home [**Telephone/Fax (1) 9989**].
   Code status: DNR / DNI.  per HCP would want to take each intervention
   in context as far as prognosis and potential benefit.  For example,
   states his mother would accept central lines/arterial lines for
   management.
   Disposition: ICU for now given continued hypothermia

2122-11-19 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypothermia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2122-11-18**] 02:00 PM
 PICC LINE - START [**2122-11-18**] 02:00 PM
 MULTI LUMEN - STOP [**2122-11-18**] 07:01 PM
   --EKG with idioventricular escape rhythm; cardiology and EP not
   concerned
   --Patient complained of shortness of breath throughout the day: will
   continue to watch
   --Got 10 of IV lasix at 2pm; put out 600cc over 4 hours.  Gave another
   10 of IV lasix overnight.
   --Patient SOB after Bairhugger placed for hypothermia, seemed agitated
   so she got 0.5mg IV ativan.  Afterwards less responsive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-11-17**] 08:11 AM
   Vancomycin - [**2122-11-18**] 03:00 PM
   Meropenem - [**2122-11-19**] 05:08 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2122-11-18**] 08:00 AM
   Furosemide (Lasix) - [**2122-11-18**] 07:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-19**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 33.9
C (93.1
   HR: 77 (72 - 94) bpm
   BP: 104/59(67) {97/43(58) - 132/62(73)} mmHg
   RR: 19 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 66 kg
    CVP: 22 (-1 - 22)mmHg
   Total In:
                                                                  1,540 mL
                                                                    170 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    685 mL
   Urine:
                                                                  1,730 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: NAD, chronically ill appearing
   CV: RRR, nl s1s2 no murmurs
   Pulm: coarse breath sounds with crackles at bases b/l
   Abd: +BS, soft, NTND
   Ext: stable edema all 4 extremities, erythema and tenderness at PICC
   site.
   Labs / Radiology
   100 K/uL
   8.3 g/dL
   93 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   10 mg/dL
   113 mEq/L
   142 mEq/L
   26.7 %
   3.0 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
                            [**2122-11-18**]  04:33 PM
                            [**2122-11-19**]  05:39 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   3.0
   Hct
   28.7
   27.2
   25.8
   28.1
   26.7
   Plt
   [**Telephone/Fax (3) 10019**]22
   100
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   0.9
   0.9
   TCO2
   25
   Glucose
   130
   141
   94
   98
   109
   93
   Other labs: PT / PTT / INR:12.6/35.3/1.1, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Microbiology: [**11-16**] and 22 blood cx: NGTD
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia, hypoxia.
   # Altered mental status: Likely med-effect due to ativan, though other
   possibilities include worsening infection, hypercarbia and an acute
   intracranial process.  We will check an ABG and give her a couple of
   hours to clear.  If she remains altered, can consider CT head.
   - ABG for hypercarbia.  If acidotic, can consider temporary BiPAP until
   clears.
   #.  Hypothermia: Hypothermia and altered mental status worrisome for
   infection in the setting of broad-spectrum antibiotics.  [**Month (only) 11**] have a
   resistant pseudomonas species.  Labs do not support adrenal
   insufficiency or hypothyroidism.   Feel that most likely is
   urosepsis-related given recent UTI and low SBPs at admission.  Per
   notes, patient was hospitalized at NWH from [**Date range (1) 9983**] and was treated
   with Vanc/Zosyn for sepsis.   Unclear why patient continues to be
   intermittently hypothermic; it is possible that she is unable to mount
   a fever and this is a manifestation of an inflammatory response.
   - Continue treatment with Vanc/Meropenem for a total 14 day course for
   complicated UTI, today is day 5.
   - Add back ciprofloxacin given worsening status.
   - f/u pseudomonas sensitivities.
   - Bair hugger as needed, though it does make patient agitated at times.
   .
 HYPOTENSION: Most likely due to septic shock given evidence for
   urosepsis and persistently low blood pressures.  Had SvO2 of 79% which
   suggests against cardiogenic shock as a cause.  Patient has now been
   off pressors for more than 24 hours and tolerating gentle diuresis.  CT
   torso showed hydronephrosis likely secondary to chronic reflux.
   Discussed with urology and IR and decided intervention would not be
   indicated currently.
   - PICC site likely simply traumatic, not likely infected at this time.
   - FU blood, urine cultures
   - vanco supratherapeutic (28.0), will hold dose and recheck in PM.
   .
   #  Hypoxemia:  Likely due to pulmonary effusions and volume overload.
   LOS 9 L positive.  Although patient
s oxygen requirements have
   improved, she is total body fluid overloaded and would likely benefit
   from continued slow diuresis.
   - can continue diuresis today; will live lasix 10 mg IV this AM and
   reasses in PM
   - family does not want to do thoracenteses at this time.
   .
   # Pancytopenia: WBC count stable but all lines are down.  Could be from
   acute infection.  WBC count has been declining since admission, but
   never had a left shift or bandemia.  It is possible that low WBC and
   declinic platelets could be a drug reaction, maybe to vancomycin.
   Thrombocytopenia is concerning for HIT.
   - hold heparin products with pneumoboots for prophylaxis.  Send HIT
   antibody.
   - pneumoboots for DVT prophylaxis.
   .
   # ARF: Creatinine rose from 0.3 to 0.9, now stabilized.  Likely
   secondary to contrast administration, with possible component of ATN
   from hypotension when first admitted.
   - continue to monitor, renally dose medications
   .
   # Arrhythmia seen on telemetry this AM; looks like accelerated
   idioventricular rhythm.  This is transient and has not compromised
   hemodynamic stability.  Not concerning per cardiology, no need to work
   up further.
   .
   #. Shortness of breath: Improves with ativan.  Patient had some
   shortness of breath associated with being turned/moved or procedures.
   Feel likely an anxiety component as O2 sat always within normal
   limits.  Given somnolence with ativan, will attempt to simply reassure
   patient.
   - Avoid ativan for now.
   .
   #.  Hypoglycemia:  None since admission.  There is a diagnosis of DM in
   chart, however not on any glycemic control meds.  Fingersticks have
   been 129-164 now and admission hypoglycemia of unclear etiology.  [**Month (only) 11**]
   have been drug-related vs sepsis-related on admission.
   .
   #.  Hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   .
   #.  MS: restart baclofen 10mg TID
   .
   #.  HTN: holding home diltiazem in setting of hypotension/diuresis.
   .
   #.  Goals of care: Patient has been against escalation of care and has
   been in and out of the hospital repeatedly.   If she remains less
   responsive, will have to weigh discomfort of further procedures against
   wishes for comfort and desire to go home.
   - palliative care consult to discuss other options.
   - Will discuss with family
   ICU Care
   Nutrition: NPO for now while altered.  Has had poor PO
s and may need
   to re-address nutrition once more alert.  ? NG tube.
   Glycemic Control:  has been normo-glycemic.
   Lines:
   PICC Line - [**2122-11-18**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots.
   Stress ulcer: not needed.
   VAP:  N/A
   Comments:
   Communication:  Patient and family.
   Code status: DNR / DNI
   Disposition: ICU for now.

2122-11-20 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cold and back on bair hugger in Am: added back cipro and recultured.
   U/A still with lots of bacteria.
   -pt somnolent after receiving ativan.  ABG: 7.32/50/97.  tried bipap
   but patient did not tolerate.  Gave flumazenil 0.2 x2 and patient
   perked up.  After a little while was very uncomfortable, complaining
   that can't breath, wanting to go to sleep.  Gave 0.5 mg IV morphine.
   After that, patient somnolent again, with SBP 80-100s.  Held off on
   fluid boluses
   -palliative care consulted; suggested holding baclofen and ativan until
   mental status improves. then add back ativan if patient again anxious
   and SOB.
   -stopped heparin, sent HIT antibody, put on pneumoboots
   -urine cytology neg for malignant cells
   ****Family left for dinner, came back and saw that patient was more
   awake but anxious and short of breath.  Decided that they wanted to
   make her comfortable, even at the expense of mental status and BP ->
   put on morphine prn but did not clarify if they wanted strict CMO at
   this time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-11-18**] 03:00 PM
   Ciprofloxacin - [**2122-11-20**] 01:00 AM
   Meropenem - [**2122-11-20**] 05:24 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2122-11-19**] 08:09 AM
   Furosemide (Lasix) - [**2122-11-19**] 08:30 AM
   Morphine Sulfate - [**2122-11-20**] 12:10 AM
   Lorazepam (Ativan) - [**2122-11-20**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-20**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.3
C (95.6
   Tcurrent: 34.8
C (94.6
   HR: 76 (65 - 87) bpm
   BP: 102/63(71) {78/26(39) - 121/74(80)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                    910 mL
                                                                    477 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    790 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  1,841 mL
                                                                    185 mL
   Urine:
                                                                  1,841 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -931 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.32/50/96.[**Numeric Identifier 274**]/23/0
   PaO2 / FiO2: 242
   Physical Examination
   Labs / Radiology
   110 K/uL
   8.2 g/dL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
                            [**2122-11-18**]  04:33 PM
                            [**2122-11-19**]  05:39 AM
                            [**2122-11-19**]  01:26 PM
                            [**2122-11-20**]  02:58 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   3.0
   3.8
   Hct
   28.7
   27.2
   25.8
   28.1
   26.7
   26.4
   Plt
   [**Telephone/Fax (3) 10019**]22
   100
   110
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   0.9
   0.9
   1.0
   TCO2
   25
   27
   Glucose
   130
   141
   94
   98
   109
   93
   102
   Other labs: PT / PTT / INR:11.9/36.3/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: No new imaging
   Microbiology: Blood Cx [**11-16**], [**11-17**], [**11-19**] pend
   U Cx [**11-19**] pend
   Assessment and Plan
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia, hypoxia.
   #.  Goals of care: Conversation with family overnight; optd to make
   patient comfortable despite possible hypotension and oversedation.
   Will clarify goals of care further this AM regarding need for continued
   blood draws, abx, etc.
   - palliative care following, recs appreciated
   - Will discuss with family
   #.  Hypothermia: Hypothermia and altered mental status worrisome for
   infection in the setting of broad-spectrum antibiotics.  [**Month (only) 11**] have a
   resistant pseudomonas species.  Labs do not support adrenal
   insufficiency or hypothyroidism.   Feel that most likely is
   urosepsis-related given recent UTI and low SBPs at admission.  Per
   notes, patient was hospitalized at NWH from [**Date range (1) 9983**] and was treated
   with Vanc/Zosyn for sepsis.   Unclear why patient continues to be
   intermittently hypothermic; it is possible that she is unable to mount
   a fever and this is a manifestation of an inflammatory response.
   - Continue treatment with Vanc/Meropenem for a total 14 day course for
   complicated UTI, today is day 5.
   - Add back ciprofloxacin given worsening status.
   - Bair hugger as needed, though it does make patient agitated at times.
   .
 HYPOTENSION: Most likely due to septic shock given evidence for
   urosepsis and persistently low blood pressures.  Had SvO2 of 79% which
   suggests against cardiogenic shock as a cause.  Patient has now been
   off pressors for more than 24 hours and tolerating gentle diuresis.  CT
   torso showed hydronephrosis likely secondary to chronic reflux.
   Discussed with urology and IR and decided intervention would not be
   indicated currently.
   - PICC site likely simply traumatic, not likely infected at this time.
   - FU blood, urine cultures
   .
   #  Hypoxemia:  Likely due to pulmonary effusions and volume overload.
   LOS 9 L positive.  Although patient
s oxygen requirements have
   improved, she is total body fluid overloaded and would likely benefit
   from continued slow diuresis.
   - can continue diuresis today; will live lasix 10 mg IV this AM and
   reasses in PM
   - family does not want to do thoracenteses at this time.
   .
   # Pancytopenia: WBC count stable but all lines are down.  Could be from
   acute infection.  WBC count has been declining since admission, but
   never had a left shift or bandemia.  It is possible that low WBC and
   declinic platelets could be a drug reaction, maybe to vancomycin.
   Thrombocytopenia is concerning for HIT.
   - hold heparin products with pneumoboots for prophylaxis.  Send HIT
   antibody.
   - pneumoboots for DVT prophylaxis.
   .
   # ARF: Creatinine rose from 0.3 to 1.0.  Likely secondary to contrast
   administration, with possible component of ATN from hypotension when
   first admitted.
   - continue to monitor, renally dose medications
   .
   # Arrhythmia seen on telemetry ; looks like accelerated idioventricular
   rhythm.  This is transient and has not compromised hemodynamic
   stability.  Not concerning per cardiology, no need to work up further.
   .
   #. Shortness of breath: Improves with ativan.  Patient had some
   shortness of breath associated with being turned/moved or procedures.
   Feel likely an anxiety component as O2 sat always within normal
   limits.  Given somnolence with ativan, will attempt to simply reassure
   patient.
   - Avoid ativan for now.
   .
   #.  Hypoglycemia:  None since admission.  There is a diagnosis of DM in
   chart, however not on any glycemic control meds.  Fingersticks have
   been 129-164 now and admission hypoglycemia of unclear etiology.  [**Month (only) 11**]
   have been drug-related vs sepsis-related on admission.
   .
   #.  Hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   .
   #.  MS: holding  baclofen 10mg TID per pall care recs
   .
   #.  HTN: holding home diltiazem in setting of hypotension/diuresis.
   .
   ICU Care
   Nutrition: NPO given AMS
   Glycemic Control:  none needed
   Lines:
   PICC Line - [**2122-11-18**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 9977**]
   Code status: DNR / DNI
   Disposition: ICU versus callout to private room

2122-11-20 10:30:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo female with MS, multiple hospitalizations (UTI, hypothermia,
   AMS)- admitted with AMS/shock -on Vanc/Merepenem for ?UTI, also with
   large pleural effusions in the context of fluid overload
   24 Hour Events:
   Abx broadened due to wrosening MS
   Became more somnolent than usual following Ativan- mildly hypercarbic
   (7.32/50's blood gas) but did not tolerate NIPPV
   Flumazenil given with transient improvement
   Diuresed- net negative 1 liter
   Family requesting comfort measures
   History obtained from [**Hospital 31**] Medical records, ICU team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-11-18**] 03:00 PM
   Ciprofloxacin - [**2122-11-20**] 01:00 AM
   Meropenem - [**2122-11-20**] 05:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-11-20**] 12:10 AM
   Lorazepam (Ativan) - [**2122-11-20**] 08:00 AM
   Other medications:
   Merepenem, colace, levothyroxine, ciprofloxacin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-20**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.3
C (95.6
   Tcurrent: 34.2
C (93.5
   HR: 82 (65 - 86) bpm
   BP: 86/57(25) {78/26(25) - 121/74(80)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                    910 mL
                                                                    499 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    790 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  1,841 mL
                                                                    206 mL
   Urine:
                                                                  1,841 mL
                                                                    206 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -931 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.32/50/96.[**Numeric Identifier 274**]/23/0
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing, anasarca
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   110 K/uL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
                            [**2122-11-18**]  04:33 PM
                            [**2122-11-19**]  05:39 AM
                            [**2122-11-19**]  01:26 PM
                            [**2122-11-20**]  02:58 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   3.0
   3.8
   Hct
   28.7
   27.2
   25.8
   28.1
   26.7
   26.4
   Plt
   [**Telephone/Fax (3) 10019**]22
   100
   110
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   0.9
   0.9
   1.0
   TCO2
   25
   27
   Glucose
   130
   141
   94
   98
   109
   93
   102
   Other labs: PT / PTT / INR:11.9/36.3/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
   88 yo female admitted with shock/AMS- treated for UTI with partial
   improvement
   1. AMS: slightly improved, but still significantly declined compared to
   yesterday morning.
   Suspect multifactorial with medications, concern for sepsis
   Off baclofen
   As priority is to maximize comfort, remains on prn morphine and ativan
   On abx, f/u cultures
   2. Hypothermia: presumed septic source. On vanc/merepenem/ciprofloxacin
   3. Pleural effusions: will try to diurese further for goal net
   500-1000cc
   4. pancytoopenia: counts unchanged, f/u HIT Ab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-11-18**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2122-11-21 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient's mental status continued to decline.  Late afternoon she
   became hypothermic and bradycardic and eventually agreed to having
   Bair-Hugger.  Family wants to focus on comfort care, discontinue
   unnecessary medications, stop BPs, and stop morning labs.  They would
   like us to stop antibiotics for now.  Will readdress in the AM and
   possibly consider hospice.
   During the night, patient complained of air hunger and was given
   low-dose morphine at 4mg/hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-11-18**] 03:00 PM
   Meropenem - [**2122-11-20**] 06:09 PM
   Ciprofloxacin - [**2122-11-21**] 12:04 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2122-11-21**] 01:56 AM
   Morphine Sulfate - [**2122-11-21**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-21**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.2
C (93.5
   Tcurrent: 34.1
C (93.4
   HR: 79 (53 - 87) bpm
   BP: 78/25(39) {51/24(25) - 133/77(85)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  1,040 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                    387 mL
                                                                     47 mL
   Urine:
                                                                    387 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   8.2 g/dL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
                            [**2122-11-18**]  04:33 PM
                            [**2122-11-19**]  05:39 AM
                            [**2122-11-19**]  01:26 PM
                            [**2122-11-20**]  02:58 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   3.0
   3.8
   Hct
   28.7
   27.2
   25.8
   28.1
   26.7
   26.4
   Plt
   [**Telephone/Fax (3) 10019**]22
   100
   110
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   0.9
   0.9
   1.0
   TCO2
   25
   27
   Glucose
   130
   141
   94
   98
   109
   93
   102
   Other labs: PT / PTT / INR:11.9/36.3/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Microbiology: URINE CULTURE (Final [**2122-11-20**]):
   YEAST.    >100,000 ORGANISMS/ML..
   Blood cultures pending.
   Assessment and Plan
   88 yo woman with recent admissions for MS changes and hx of MS, p/w
   bradycardia, hypothermia, hypoxia.
   #.  Goals of care: Multiple conversations with family, decided to make
   patient comfort measures only.  We will discontinue unnecessary
   antibiotics, blood draws, and blood pressures.  However, we
ll keep on
   antibiotics for now.
   - Palliative care following, recs appreciated
   - Will discuss with family goals for dispo including hospice, if
   patient stabilizes a bit.
   - Patient started on low-dose morphine drip for comfort.
   #.  Hypothermia: Hypothermia and altered mental status worrisome for
   infection in the setting of broad-spectrum antibiotics.  [**Month (only) 11**] have a
   resistant pseudomonas species.  Labs do not support adrenal
   insufficiency or hypothyroidism.   Feel that most likely is
   urosepsis-related given recent UTI and low SBPs at admission.  Per
   notes, patient was hospitalized at NWH from [**Date range (1) 9983**] and was treated
   with Vanc/Zosyn for sepsis.   Unclear why patient continues to be
   intermittently hypothermic; it is possible that she is unable to mount
   a fever and this is a manifestation of an inflammatory response.
   - Continue treatment with Vanc/Meropenem/cipro for a total 14 day
   course for complicated UTI, today is day 7 (cipro day 2)
   - dose vanc by level
   - Bair hugger as needed, though it does make patient agitated at times.
   .
 HYPOTENSION: Most likely due to septic shock given evidence for
   urosepsis and persistently low blood pressures.  Had SvO2 of 79% which
   suggests against cardiogenic shock as a cause.  Patient has now been
   off pressors for more than 48 hours and tolerating gentle diuresis.  CT
   torso showed hydronephrosis likely secondary to chronic reflux.
   Discussed with urology and IR and decided intervention would not be
   indicated currently.
   - PICC site likely simply traumatic, not likely infected at this time.
   - FU blood, urine cultures
   .
   #  Dyspnea:  Likely due to pulmonary effusions and volume overload.
   LOS 9 L positive.  Although patient
s oxygen requirements have
   improved, she is total body fluid overloaded and would likely benefit
   from continued slow diuresis.
   - can continue diuresis today with goal of total 500-1L negative
   - symptomatic tx with morphine and ativan prn
   - family does not want to do thoracenteses at this time.
   .
   # Pancytopenia: WBC count stable but all lines are down.  Could be from
   acute infection.  WBC count has been declining since admission, but
   never had a left shift or bandemia.  It is possible that low WBC and
   declinic platelets could be a drug reaction, maybe to vancomycin.
   Thrombocytopenia is concerning for HIT.
   - hold heparin products with pneumoboots for prophylaxis.  HIT
   antibodies pending.
   - pneumoboots for DVT prophylaxis.
   .
   # ARF: Creatinine is still 1.0 from 0.3 on admission.  Likely secondary
   to contrast administration, with possible component of ATN from
   hypotension when first admitted.
   - continue to monitor, renally dose medications
   .
   # Arrhythmia seen on telemetry ; looks like accelerated idioventricular
   rhythm.  This is transient and has not compromised hemodynamic
   stability.  Not concerning per cardiology, no need to work up further.
   .
   #.  Hypothyroidism: T4 at appropriate level, continue home
   levothyroxine dose at IV dosing
   .
   #.  MS: holding  baclofen 10mg TID per pall care recs
   .
   #.  HTN: holding home diltiazem in setting of hypotension/diuresis.
   ICU Care
   Nutrition: NPO given AMS
   Glycemic Control:  none needed
   Lines:
   PICC Line - [**2122-11-18**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments: symptom control with morphine and ativan prn
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 9977**]
   Code status: DNR / DNI
   Disposition: ICU for now

2122-11-21 13:23:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo female with MS [**First Name (Titles) 43**] [**Last Name (Titles) **] with hypotehermia, AMS, hypothermia
   24 Hour Events:
   *STarted on low dose morphine
   *Transition to CMO
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-11-18**] 03:00 PM
   Meropenem - [**2122-11-20**] 06:09 PM
   Ciprofloxacin - [**2122-11-21**] 12:04 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2122-11-21**] 01:56 AM
   Morphine Sulfate - [**2122-11-21**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-11-21**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.1
C (93.4
   Tcurrent: 34.1
C (93.4
   HR: 71 (53 - 80) bpm
   BP: 78/25(56) {63/25(39) - 133/57(76)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  1,040 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                    387 mL
                                                                     67 mL
   Urine:
                                                                    387 mL
                                                                     67 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   110 K/uL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                            [**2122-11-15**]  11:31 AM
                            [**2122-11-15**]  05:10 PM
                            [**2122-11-15**]  05:25 PM
                            [**2122-11-16**]  02:00 AM
                            [**2122-11-17**]  03:59 AM
                            [**2122-11-18**]  05:02 AM
                            [**2122-11-18**]  04:33 PM
                            [**2122-11-19**]  05:39 AM
                            [**2122-11-19**]  01:26 PM
                            [**2122-11-20**]  02:58 AM
   WBC
   5.4
   5.2
   3.6
   2.8
   3.0
   3.8
   Hct
   28.7
   27.2
   25.8
   28.1
   26.7
   26.4
   Plt
   [**Telephone/Fax (3) 10019**]22
   100
   110
   Cr
   0.3
   0.3
   0.5
   0.7
   0.9
   0.9
   0.9
   1.0
   TCO2
   25
   27
   Glucose
   130
   141
   94
   98
   109
   93
   102
   Other labs: PT / PTT / INR:11.9/36.3/1.0, ALT / AST:[**8-12**], Alk Phos / T
   Bili:79/0.2, Differential-Neuts:62.4 %, Lymph:31.2 %, Mono:5.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
   88 yo female with MS, DM admitted with hypothermia, AMS, suspected
   sepsis not responding to antibiotics.
   Transitioned to CMO
   Spoke with pt
s family at bedside with questions answered to their
   apparent satisfaction
   Will have palliative care contact pt
s family to discuss possible
   options for transferring pt to a more private setting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-11-18**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU for now, pending palliative care discussion
   Total time spent: